US04136256
Preparation of N-[4-(hexadecylamino)benzoyl]urea
The 12.6 g. of 4-(hexadecylamino)benzoyl chloride hydrochloride in methylene chloride is added to 5 g. of sodium urea in 30 ml. of acetone and the mixture is stirred at 20° C. for 18 hours. Dilute alkali is added and the solid washed with alkaline aqueous acetone. Recrystallization from ethanol gives pure white crystals of product.

reactant | 4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | sodium urea | NC(=O)N.[Na]
reactant | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-(hexadecylamino)benzoyl]urea | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NC(=O)N)C=C1 | C24H41N3O2
